US09145437B2
Preparation of O4-benzyl O9-tert-butyl 4,9-diazaspiro[5.5]undecane-4,9-dicarboxylate
To a 20 L temperature controlled reactor charge tert-butyl 4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (2.06 moles; 600.00 g) followed by dichloromethane (6.00 L), then triethylamine (4.33 moles; 604 mL) is added. Set the jacket of the reactor to 0° C. When the temperature of the reaction mixture reaches 5° C., add benzyl chloroformate (2.10 moles; 311 mL) over about 20 minutes keeping the internal temperature below 20° C. When the addition is complete, warm the jacket to room temperature and stir the mixture overnight. Pour the reaction mixture into water (4 L) and separate the mixture. Concentrate the organics under reduced pressure to give the title compound (838 g; assumed 95.65% purity and 100% yield for the purposes of calculation in the next reaction) mass spectrum (m/z): 411.2 (M+23).

reactant | tert-butyl 4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 2.06 moles, 600.00 g | Cl.C1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | dichloromethane | 6.00 L | ClCCl | CH2Cl2
reactant | triethylamine | 4.33 moles, 604 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 2.10 moles, 311 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 4 L | O | H2O
product | O4-benzyl O9-tert-butyl 4,9-diazaspiro[5.5]undecane-4,9-dicarboxylate | 100% yield | C1CCN(CC12CCN(CC2)C(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2 | C22H32N2O4
